** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/testbench/bootstrap_switch_tbs.sch
**.subckt bootstrap_switch_tbs vo
*.iopin vo
V1 clk GND PULSE(0 5 0 10p 10p 0.5u 1u)
V2 vin GND SIN(0.6 0.6 12.695e3 0 0 0)
V3 vdd GND 1.2
C1 vo GND 7p m=1
x1 vdd vin vo clk GND bootstrap_switch
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt
.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ



.control
save all
tran 1u 1.024m
set wr_singlescale
set wr_vecnames
write test_bootstrap.raw
wrdata vout_data.txt v(vo)
.endc


**** end user architecture code
**.ends

* expanding   symbol:
*+  /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/bootstrap_switch.sym # of pins=5
** sym_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/bootstrap_switch.sym
** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/bootstrap_switch.sch
.subckt bootstrap_switch vdd vi vo clk gnd
*.iopin gnd
*.iopin vdd
*.iopin vi
*.iopin vo
*.iopin clk
XM1 vdd net2 net1 gnd sg13_lv_nmos w=1.3u l=0.13u ng=1 m=1
XM3 vdd net1 net2 gnd sg13_lv_nmos w=1.3u l=0.13u ng=1 m=1
XM4 net7 net10 net3 net3 sg13_lv_pmos w=500n l=0.13u ng=1 m=1
XM2 vdd net2 net3 gnd sg13_lv_nmos w=1.3u l=0.13u ng=1 m=1
XM6 net5 gp vdd vdd sg13_lv_pmos w=500n l=130n ng=1 m=1
XM5 net5 vdd net4 gnd sg13_lv_nmos w=3u l=0.13u ng=1 m=1
XM7 net4 clk_not gnd gnd sg13_lv_nmos w=3u l=0.13u ng=1 m=1
XC5 net2 clk_not cap_cmim w=4.665e-6 l=6.99e-6 m=1
XC6 net3 net6 cap_cmim w=9.39e-6 l=6.99e-6 m=1
XM8 net6 net5 vi gnd sg13_lv_nmos w=3u l=0.13u ng=1 m=1
XM9 vo net7 vi gnd sg13_lv_nmos w=2.5u l=0.13u ng=1 m=1
XM10 net8 vdd net7 gnd sg13_lv_nmos w=500n l=0.13u ng=1 m=1
XM11 gnd clk_not net8 gnd sg13_lv_nmos w=500n l=0.13u ng=1 m=1
XM12 net6 clk_not gnd gnd sg13_lv_nmos w=1.3u l=0.4u ng=1 m=1
XC1 net1 net9 cap_cmim w=4.665e-6 l=6.99e-6 m=1
x1 vdd clk clk_not gnd inverter
x2 vdd gp net10 gnd inverter
x3 vdd clk_not net9 gnd inverter
.ends


* expanding   symbol:
*+  /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sym # of pins=4
** sym_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sym
** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sch
.subckt inverter vdd vi vo gnd
*.iopin vi
*.iopin vo
*.iopin gnd
*.iopin vdd
XM5 vo vi vdd vdd sg13_lv_pmos w=800n l=130n ng=1 m=1
XM7 vo vi gnd gnd sg13_lv_nmos w=400n l=130n ng=1 m=1
.ends

.GLOBAL GND
.end
